* C:\Learning\simetrix\Simetrix_old\Work\mySims\RA_Cloop_in.sxsch
V4 S1_CP 0  Pulse(0 1  20u 50n 50n)
V5 p5 0 5V
V6 V6_P 0 5 
R8 p15 R8_N 2.2k
V1 p15 0 15 
R9 R8_N X3_inn 10k
X$VR1 VR1_Max R4_N R4_N PotVR1 : R=1k W=500m pinnames: Max Wiper Min 
.subckt PotVR1 Max Wiper Min 
B1 Max Wiper V=R*(1-W)*I(B1) 
B2 Wiper Min V=R*W*I(B2) 
.ends
V2 0 n15 15 
V3 V3_P 0 8 
D8 R8_N D7_P D1N4148
R12 0 R12_N 25k
X1 R3_N R4_P p15 n15 R4_N TL072 pinnames: inp inn vsp vsn out
R13 R15_P 0 25k
X2 0 X2_inn p15 n15 D1_N <\Ti.lb>LM358 pinnames: inp inn vsp vsn out
R10 S2_P R15_N 3.3k
X3 C1_P X3_inn p15 n15 D5_P <\Ti.lb>LM358 pinnames: inp inn vsp vsn out
R11 R8_N X4_inn 10k
X4 S2_P X4_inn p15 n15 D7_P <\Ti.lb>LM358 pinnames: inp inn vsp vsn out
C1 C1_P X2_inn 25n
X5 R12_N R15_P p15 n15 R15_N TL072 pinnames: inp inn vsp vsn out
R14 R12_N V6_P 25k
D1 X2_inn D1_N D1N4148
R15 R15_P R15_N 25k
D2 D1_N C1_P D1N4148
D3 R5_N D3_N D1N4148
D4 D3_N X2_inn D1N4148
D5 D5_P X3_inn D1N4148
D6 R8_N D5_P D1N4148
D7 D7_P X4_inn D1N4148
R4 R4_P R4_N 25k
R5 p5 R5_N 2.2k
R6 C1_P 0 4.7k
R7 X2_inn VR1_Max 3.9k
X$S2 S2_P 0 S1_CP 0 gen_switch : RON=5u ROFF=50Meg VON=0 VOFF=1 pinnames: P N CP CN
R1 R4_P V3_P 25k
R2 R3_N 0 25k
X$S1 R5_N 0 S1_CP 0 gen_switch : RON=5u ROFF=50Meg VON=1 VOFF=0 pinnames: P N CP CN
R3 0 R3_N 25k

.tran 20m
