* D:\learning\simetrix\Simetrix_old_Version\Work\simetrixSims\RA_SlopeGen.sxsch
V4 S1_CP 0  Pulse(0 1  2m 50n 50n)
V5 p5 0 5V
V1 p15 0 15 
V2 0 n15 15 
X$VR1 VR1_Max R4_N R4_N PotVR1 : R=1k W=500m pinnames: Max Wiper Min 
.subckt PotVR1 Max Wiper Min 
B1 Max Wiper V=R*(1-W)*I(B1) 
B2 Wiper Min V=R*W*I(B2) 
.ends
V3 V3_P 0 2 
X1 R3_N R4_P p15 n15 R4_N TL072 pinnames: inp inn vsp vsn out
X2 0 X2_inn p15 n15 D1_N <\Ti.lb>LM358 pinnames: inp inn vsp vsn out
C1 C1_P X2_inn 25n
D1 X2_inn D1_N D1N4148
D2 D1_N C1_P D1N4148
D3 R5_N D3_N D1N4148
D4 D3_N X2_inn D1N4148
R4 R4_P R4_N 25k
R5 p5 R5_N 2.2k
R6 C1_P 0 4.7k
R7 X2_inn VR1_Max 3.9k
R1 R4_P V3_P 25k
R2 R3_N 0 25k
R3 0 R3_N 25k
X$S1 R5_N 0 S1_CP 0 gen_switch : RON=5u ROFF=50Meg VON=0 VOFF=1 pinnames: P N CP CN

.tran 20m
